US09085555B2
3-Chloro-2-fluoro-5-(4-methyl-piperazin-1-ylmethyl)-benzylamine
was prepared according to Scheme C2 (step D) from [3-chloro-2-fluoro-5-(4-methyl-piperazin-1-ylmethyl)-benzyl]-carbamic acid tert-butyl ester (225 mg, 0.61 mmol) and 4N HCl in dioxane. MS (LC-MS): 272.0 [M]+; tR (HPLC conditions c): 2.07 min.

reactant | [3-chloro-2-fluoro-5-(4-methyl-piperazin-1-ylmethyl)-benzyl]-carbamic acid tert-butyl ester | 0.61 mmol, 225 mg | C(C)(C)(C)OC(NCC1=C(C(=CC(=C1)CN1CCN(CC1)C)Cl)F)=O | C18H27ClFN3O2
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-Chloro-2-fluoro-5-(4-methyl-piperazin-1-ylmethyl)-benzylamine | ClC=1C(=C(CN)C=C(C1)CN1CCN(CC1)C)F | C13H19ClFN3
